* MAX4460 MACROMODEL
* ------------------------------
* Revision 0, 12/2003
* ------------------------------
* MAX4460 instrumentation amplifier has rail-to-rail outputs with 
* precision specifications, low-power consumption, and excellent 
* gain-bandwidth product. MAX4460 has an adjustable gain. 
* These amplifiers operate with a single-supply  voltage from 
* 2.85V to 5.25V, quiescent current of only 700uA and have
* a gain-bandwidth product of 2.5MHz.
* ------------------------------
* Connections
*      1  = OUT
*      2  = GND
*      3  = IN+
*      4  = IN- 
*      5  = VDD
*      6  = FB
*****************
.SUBCKT MAX4460 1 2 3 4 5 6
*INPUT STAGE
****************
RQ 5 2 6.667K
****************
VOS 99 3 100U
****************
*INPUT BIAS CURRENT
RBIAS1 7 4 2E12
RBIAS2 7 99 2E12
****************
*ICMR
VOFF 7 47 2
DCMRH 47 45 DX
VCMRH 5 45 1.7
DCMRL 46 47 DX
VCMRL 2 46 0.1
****************
ISS 5 7 50U
RS1 7 40 19.859K
RS2 7 50 19.859K
M1 20 4 40 40 PMOS W=100U L=100U
M2 30 99 50 50 PMOS W=100U L=100U
RD1 20 2 20K
RD2 30 2 20K
****************
*DIFFERENTIAL INPUT RESISTANCE
RIND 4 99 2E9
****************
*INTERMEDIATE STAGE
*DOUBLE ENDED TO SINGLE ENDED CONVERSION
GIN 2 77 20 30 1U
RIN 77 2 1MEG
*POWER SUPPLY REJECTION ZERO AND POLE
GPS 21 22 5 2 0.3M
RPS1 22 23 33.34M
RPS2 23 21 1K
LPS 23 21 53.05U

*COMMON MODE REJECTION ZERO AND POLE
GCM 21 24 7 2 1.499U
RCM1 24 25 0.667
RCM2 25 21 1K
LCM 25 21 53.05U

*GAIN STAGES
GPSA 21 31 22 21 1.571M
GCMA 21 31 24 21 1.571M
GA 31 21 77 6 1.571M
R2 31 21 636.54
C2 31 33 100P
EZ 33 21 32 21 1
GB 32 21 31 21 3.142K
RO2 32 21 1K
****************
*REFERENCE STAGE
VREF 21 2 0
****************
*OUTPUT CLAMPING
EOHO 66 0 5 0 1
VOHO 66 11 3M
D9 32 11 DX
D10 12 32 DX
VOLO 12 2 0
****************
EBUFF 88 2 32 2 1
****************
*CURRENT LIMITING STAGE
D5 88 9 DX
D6 1 9 DX
D7 10 88 DX
D8 10 1 DX 
ILIMIT 9 10 150M
****************
*MODELS USED
.MODEL PMOS PMOS(KP=1 VTO=-1.5)
.MODEL DX D(N=0.002 CJO=1E-18)
****************
.ENDS  
****************




* Copyright (c) 2003-2012 Maxim Integrated Products.  All Rights Reserved.
